US06924276B2
A mixture of 5-methyl-4-nitro-thiophene-2-carboxylic acid (1.0 g, 5.3 mmol) and 1,3-diisopropyl-2-benzylisourea (1.54 g, 6.4 mmol) in acetonitrile (25 mL) was stirred under an inert atmosphere and heated to reflux. After 48 hours the mixture was cooled, the solvent was removed under reduced pressure, and the residue was triturated in diethyl ether and cooled. The precipitate was filtered off and rinsed with cold ether. The filtrate and washings were combined, and rotary evaporated under reduced pressure. The resulting residue was dissolved in a minimum of ethyl acetate, and the solution was filtered through a column of silica gel, eluting with more ethyl acetate. The filtrate was rotary evaporated to dryness under reduced pressure to afford 1.2 g of 5-methyl-4-nitro-thiophene-2-carboxylic acid benzyl ester. A sample was chromatographed on silica gel in ether/petroleum ether 1:1, then recrystallized from ethanol to give product with a mp 57-58° C.

reactant | 5-methyl-4-nitro-thiophene-2-carboxylic acid | 5.3 mmol, 1.0 g | CC1=C(C=C(S1)C(=O)O)[N+](=O)[O-] | C6H5NO4S
reactant | 1,3-diisopropyl-2-benzylisourea | 6.4 mmol, 1.54 g | C(C)(C)NC(OCC1=CC=CC=C1)=NC(C)C | C14H22N2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 5-methyl-4-nitro-thiophene-2-carboxylic acid benzyl ester | 1.2 g | C(C1=CC=CC=C1)OC(=O)C=1SC(=C(C1)[N+](=O)[O-])C | C13H11NO4S
